US05969139
A solution of 6.8 g of 3-bromo-4-chlorobenzaldehyde in 17 ml of trimethyl orthoformate was stirred with 6.9 g of Amberlyst 15 resin at room temperature overnight. The mixture was filtered and the filtrate was evaporated to give 4.5 g of 3-bromo-4-chlorobenzaldehyde dimethyl acetal as a colourless oil, mass spectrum (EI) m/e 266 [M+].

reactant | 3-bromo-4-chlorobenzaldehyde | 6.8 g | BrC=1C=C(C=O)C=CC1Cl | C7H4BrClO
reactant | trimethyl orthoformate | 17 ml | C(OC)(OC)OC | C4H10O3
product | 3-bromo-4-chlorobenzaldehyde dimethyl acetal | 4.5 g | COC(C1=CC(=C(C=C1)Cl)Br)OC | C9H10BrClO2
